US07608563B2
In N,N-dimethylformamide(50 mL) was dissolved 3.68 g (29.7 mmol) of commercially available 3-methoxyphenol, 1.81 g (45.4 mmol) of 60% sodium hydride was added to the solution in an ice bath, and the resulting mixture was stirred in an ice bath for 20 minutes. To the mixture was gradually added dropwise in an ice bath 4.05 mL (53.3 mmol) of chloro(methoxy)methane, and the resulting mixture was stirred at room temperature overnight. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was successively washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the obtained residue was purified by silica gel column chromatography (Wako gel C-100, hexane-ethyl acetate, gradient) to obtain 4.81 g (28.6 mmol, Yield: 96.3%) of 1-methoxy-3-(methoxymethoxy)benzene.

reactant | sodium hydride | 45.4 mmol, 1.81 g | [H-].[Na+]
reactant | chloro(methoxy)methane | 53.3 mmol, 4.05 mL | ClCOC | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 3-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-methoxy-3-(methoxymethoxy)benzene | 28.6 mmol, 4.81 g, Yield: 96.3% | COC1=CC(=CC=C1)OCOC | C9H12O3
